US08877774B2
Step 1. (3-((8-(1,3-dioxolan-2-yl)octyl)oxy)-4-methylphenyl)methanol
To a stirred solution of 5-(hydroxymethyl)-2-methylphenol (0.57 g, 4.15 mmol) in dimethyl formamide (15 mL), was added 2-(8-bromooctyl)-1,3-dioxolane (1.00 g, 3.77 mmol) and potassium carbonate (0.63 g, 4.57 mmol), and the mixture was stirred at 80° C. for 16 hours. The reaction mixture was cooled to room temperature, diluted with water and extracted with ethyl acetate (×3). The combined organic extracts were washed with brine, dried (magnesium sulphate), filtered and concentrated under reduced pressure. The crude material was purified by silica gel chromatography eluting with 0-7% ethyl acetate in iso-hexane to afford the title compound (0.5 g, 41%).

reactant | 5-(hydroxymethyl)-2-methylphenol | 4.15 mmol, 0.57 g | OCC=1C=CC(=C(C1)O)C | C8H10O2
reactant | 2-(8-bromooctyl)-1,3-dioxolane | 3.77 mmol, 1.00 g | BrCCCCCCCCC1OCCO1 | C11H21BrO2
reactant | potassium carbonate | 4.57 mmol, 0.63 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethyl formamide | 15 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | (3-((8-(1,3-dioxolan-2-yl)octyl)oxy)-4-methylphenyl)methanol | 0.5 g, 41% | O1C(OCC1)CCCCCCCCOC=1C=C(C=CC1C)CO | C19H30O4
